US08614206B2
A mixture of azepan-2-one (136 mg, 1.2 mmol), 5-bromo-1-methyl-4-nitro-1H-pyrazole (206 mg, 1.0 mmol), Xantphos (116 mg, 0.20 mmol) and caesium carbonate (456 mg, 1.40 mmol) in dioxane (4 mL) was degassed by bubbling nitrogen through it for 15 min. Tris(dibenzylideneacetone)dipalladium(0) (46 mg, 0.05 mmol) was then added and the mixture degassed for a further 10 min before being heated in the microwave at 140° C. for 3 hours. Water (10 mL) was added and the mixture extracted into EtOAc (3×10 mL). The combined organic layers were passed through a phase separation cartridge and concentrated under reduced pressure. The residue was purified via silica gel chromatography (0-100% EtOAc/isohexane) to give 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-2-one as a brown gum (107 mg, 44%). 1H NMR (400 MHz, CDCl3) δ 8.11 (s, 1H), 3.96 (dd, J=15.2, 10.0 Hz, 1H), 3.76 (s, 3H), 3.53 (dd, J=15.2, 7.2 Hz, 1H), 2.82-2.74 (m, 2H), 2.13-1.96 (m, 3H), 1.83-1.67 (m, 3H).

reactant | azepan-2-one | 1.2 mmol, 136 mg | N1C(CCCCC1)=O | C6H11NO
reactant | 5-bromo-1-methyl-4-nitro-1H-pyrazole | 1.0 mmol, 206 mg | BrC1=C(C=NN1C)[N+](=O)[O-] | C4H4BrN3O2
reactant | Xantphos | 0.20 mmol, 116 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | caesium carbonate | 1.40 mmol, 456 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.05 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-2-one | 107 mg, 44% | CN1N=CC(=C1N1C(CCCCC1)=O)[N+](=O)[O-] | C10H14N4O3
